US07947728B1
5-(4′,5′-Difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indazol-3-ylamine
A mixture of 2-fluoro-5-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzonitrile (150 mg, 0.41 mmol), aqueous hydrazine (excess) and n-butanol (3 mL) was heated to 150° C. for 30 min via microwave reactor. The mixture was then cooled to room temperature. The mixture was then purified by preparative HPLC under neutral conditions to give title compound. LC-MS (ES) calculated for C21H17F2N3O2, 381.39; found m/z 382 [M+H]+.

reactant | 2-fluoro-5-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzonitrile | 0.41 mmol, 150 mg | FC1=C(C#N)C=C(C=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC | C21H14F3NO2
reactant | hydrazine | NN | H4N2
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | 5-(4′,5′-Difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indazol-3-ylamine | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C2C(=NNC2=CC1)N)OC | C21H17F2N3O2
